US07994205B2
1-{1-[1-benzothien-2-ylsulfonyl]-2-phenyl-1H-imidazol-4-yl}-N-methylmethanamine Fumarate
A mixture of 1-(1-benzothien-2-ylsulfonyl)-2-phenyl-1H-imidazole-4-carbaldehyde (1.25 g), methylammonium chloride (1.15 g) and methanol (40 mL) was stirred at room temperature for 30 min, sodium triacetoxyborohydride (2.16 g) was added, and the mixture was further stirred for 1 hr. The reaction mixture was concentrated under reduced pressure at 30° C., saturated aqueous sodium hydrogen carbonate solution was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent:ethyl acetate), dissolved in ethyl acetate (40 mL), and crystallized by adding a solution of anhydrous fumaric acid (394 mg) in methanol (4 mL) to give the title compound as colorless crystals (yield 1.17 g, 69%).

reactant | 1-(1-benzothien-2-ylsulfonyl)-2-phenyl-1H-imidazole-4-carbaldehyde | 1.25 g | S1C(=CC2=C1C=CC=C2)S(=O)(=O)N2C(=NC(=C2)C=O)C2=CC=CC=C2 | C18H12N2O3S2
reactant | methylammonium chloride | 1.15 g | [Cl-].C[NH3+]
reactant | sodium triacetoxyborohydride | 2.16 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methanol | 40 mL | CO | CH4O
product | 1-{1-[1-benzothien-2-ylsulfonyl]-2-phenyl-1H-imidazol-4-yl}-N-methylmethanamine Fumarate | yield 1.17 g, 69% | C(\C=C\C(=O)O)(=O)O.S1C(=CC2=C1C=CC=C2)S(=O)(=O)N2C(=NC(=C2)CNC)C2=CC=CC=C2 | InChI=1S/C19H17N3O2S2.C4H4O4/c1-20-12-16-13-22(19(21-16)14-7-3-2-4-8-14)26(23,24)18-11-15-9-5-6-10-17(15)25-18;5-3(6)1-2-4(7)8/h2-11,13,20H,12H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
